### PR TITLE
[Merged by Bors] - chore(Analysis/Asymptotics): remove unnecessary hypothesis from `isEquivalent_of_tendsto_one`

### PR DESCRIPTION
**Pull request by vasnesterov**
The condition `∀ᶠ x in l, v x = 0 → u x = 0` in `isEquivalent_of_tendsto_one` can be proven from the other assumption, `Tendsto (u / v) l (𝓝 1)`. This PR proves that and removes the former condition.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean [hunk 1]
```diff
@@ -201,14 +201,25 @@ theorem IsEquivalent.exists_eq_mul (huv : u ~[l] v) :
...
   isEquivalent_iff_exists_eq_mul.mp huv
 
-theorem isEquivalent_of_tendsto_one (hz : ∀ᶠ x in l, v x = 0 → u x = 0)
+private theorem isEquivalent_of_tendsto_one_aux (hz : ∀ᶠ x in l, v x = 0 → u x = 0)
     (huv : Tendsto (u / v) l (𝓝 1)) : u ~[l] v := by
   rw [isEquivalent_iff_exists_eq_mul]
   exact ⟨u / v, huv, hz.mono fun x hz' ↦ (div_mul_cancel_of_imp hz').symm⟩
 
-theorem isEquivalent_of_tendsto_one' (hz : ∀ x, v x = 0 → u x = 0) (huv : Tendsto (u / v) l (𝓝 1)) :
+theorem isEquivalent_of_tendsto_one {α β : Type*} [NormedField β] {u v : α → β}
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean]: Is there a reason you're re-declaring alpha, beta, u, v and l? It seems to me you can simply reuse them.

File: Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean [hunk 2]
```diff
@@ -201,14 +201,25 @@ theorem IsEquivalent.exists_eq_mul (huv : u ~[l] v) :
...
+    {l : Filter α} (huv : Tendsto (u / v) l (𝓝 1)) : u ~[l] v := by
+  apply Asymptotics.isEquivalent_of_tendsto_one_aux _ huv
+  by_contra! h
+  replace h : ∃ᶠ t in l, (u / v) t = 0 := by
+    apply h.mono
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean]: I haven't checked in detail yet: if this proof is mathematically obvious, you can golf this down to one line, as in `h.mono fun x ⟨hv, hu⟩ \mapsto (by simp [hv])`.

File: Mathlib/Analysis/Asymptotics/SpecificAsymptotics.lean [hunk 3]
```diff
@@ -182,12 +182,10 @@ variable {R : Type*} [NormedField R] [LinearOrder R] [IsStrictOrderedRing R]
 
 theorem Asymptotics.isEquivalent_nat_floor :
     (fun (x : R) ↦ ↑⌊x⌋₊) ~[atTop] (fun x ↦ x) := by
-  refine isEquivalent_of_tendsto_one ?_ tendsto_nat_floor_div_atTop
-  filter_upwards with x hx using by rw [hx, Nat.floor_zero, Nat.cast_eq_zero]
+  refine isEquivalent_of_tendsto_one tendsto_nat_floor_div_atTop
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/SpecificAsymptotics.lean]: Can you use `exact`, or even remove the `by refine`? Also below.

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! Some small style comments.

File: Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean [hunk 4]
```diff
@@ -201,14 +201,22 @@ theorem IsEquivalent.exists_eq_mul (huv : u ~[l] v) :
...
+  apply Asymptotics.isEquivalent_of_tendsto_one_aux _ huv
+  by_contra! h
+  replace h : ∃ᶠ t in l, (u / v) t = 0 := h.mono fun x ⟨hv, hu⟩ ↦ by simp [hv]
+  have := tendsto_nhds_unique_of_frequently_eq (b := 0) huv tendsto_const_nhds h
+  simp at this
+
+theorem isEquivalent_of_tendsto_one' (huv : Tendsto (u / v) l (𝓝 1)) :
     u ~[l] v :=
-  isEquivalent_of_tendsto_one (Eventually.of_forall hz) huv
+  isEquivalent_of_tendsto_one huv
```
Comment (ocfnash) [inline Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean]: Shouldn't we just replace all three of these lemmas with:
```lean
theorem isEquivalent_of_tendsto_one (huv : Tendsto (u / v) l (𝓝 1)) :
    u ~[l] v := by
  suffices ∀ᶠ x in l, v x = 0 → u x = 0 by
    rw [isEquivalent_iff_exists_eq_mul]
    exact ⟨u / v, huv, this.mono fun x hz' ↦ (div_mul_cancel_of_imp hz').symm⟩
  by_contra! h
  replace h : ∃ᶠ t in l, (u / v) t = 0 := h.mono fun x ⟨hv, hu⟩ ↦ by simp [hv]
  simpa using tendsto_nhds_unique_of_frequently_eq (b := 0) huv tendsto_const_nhds h
```

Comment (vasnesterov) [reply Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean]: Yes, sure... I missed the fact that after removing this unnecessary condition the primed lemma became equal to the unprimed one. Thank you!

File: Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean [hunk 5]
```diff
@@ -201,14 +201,14 @@ theorem IsEquivalent.exists_eq_mul (huv : u ~[l] v) :
...
-    u ~[l] v :=
-  isEquivalent_of_tendsto_one (Eventually.of_forall hz) huv
+theorem isEquivalent_of_tendsto_one (huv : Tendsto (u / v) l (𝓝 1)) :
+    u ~[l] v := by
+  suffices ∀ᶠ x in l, v x = 0 → u x = 0 by
+    rw [isEquivalent_iff_exists_eq_mul]
+    exact ⟨u / v, huv, this.mono fun x hz' ↦ (div_mul_cancel_of_imp hz').symm⟩
+  by_contra! h
+  replace h : ∃ᶠ t in l, (u / v) t = 0 := h.mono fun x ⟨hv, hu⟩ ↦ by simp [hv]
+  simpa using tendsto_nhds_unique_of_frequently_eq (b := 0) huv tendsto_const_nhds h
```
Comment (grunweg) [inline Mathlib/Analysis/Asymptotics/AsymptoticEquivalent.lean:212]: Let's add a deprecation
```suggestion

@[deprecated (since := "2026-01-26")] alias isEquivalent_of_tendsto_one' := isEquivalent_of_tendsto_one

```
